** DAC Converter **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: levuo
* Mon, Jun 24, 2024 14:14:59 
*

*## Multisim Component R8 ##*
rR8 1 9 10000 vresR8  
.model vresR8 r(  )

*## Multisim Component R6 ##*
rR6 4 1 20000 vresR6  
.model vresR6 r(  )

*## Multisim Component R7 ##*
rR7 8 0 4700 vresR7  
.model vresR7 r(  )

*## Multisim Component R1 ##*
rR1 6 5 4700 vresR1  
.model vresR1 r(  )

*## Multisim Component VEE ##*
VEEVEE  VEE 0 dc -17

*## Multisim Component VCC ##*
VCCVCC  VCC 0 dc 5

*## Multisim Component R5 ##*
rR5 7 1 10000 vresR5  
.model vresR5 r(  )

*## Multisim Component R2 ##*
rR2 5 1 300 vresR2  
.model vresR2 r(  )

*## Multisim Component R4 ##*
rR4 2 1 1000 vresR4  
.model vresR4 r(  )

*## Multisim Component R3 ##*
rR3 3 2 39000 vresR3  
.model vresR3 r(  )

*## Multisim Component S4 ##*
* !!!BEGIN-INTERACT
*  2.0 constant high
*  0.0 constant low
*  2   constant max_states
*  low VARIABLE volt
*
*  :MAP_KEYBOARD_INPUT ++++K1 1 ++++k1 -1 ;
*
*  : UPDATE_SETTINGS
*     *animation_state max_states  low  high  STATE  volt 
*     GRADUAL_CHANGE_AT_RUN  
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state *animation_state max_states NEXT_STATE_WRAP
*                                             ==>_*animation_state
*     UPDATE_SETTINGS
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*     value  SET_INSTANCE Vsource ::V  V2 dc
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*  : INIT_IMOUSE_OPTION
*    1 0 4 IMOUSE_SET
*  ;
*
*  : GET_IMOUSE_SUBCOMPS ( -- [iIdxN ... iIdx1] )
*    1
*  ;
*
*  : ON_SUBCOMP_IMOUSE_EVENT locals| eEventType nOptions iSubCompIdx |
*    eEventType 2 = if
*      -1
*      -1 KEYBOARD_INPUT
*    else
*      0
*    endif
*  ;
*
*  ( Initialize the settings )
*   UPDATE_SETTINGS
*   INIT_IMOUSE_OPTION
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ; 
*
* !!!END-INTERACT

xS4 VCC 3 0  SwitchS4 Params: Ron=0.0001 Roff=100000000

.subckt SwitchS4 1 2 3 Params: Ron=1e-8 Roff=1e30
V2 5 0 DC 0
R1 5 6 20
V1 6 0 DC 0
W0 2 1 V1 NC_contact 
W1 2 3 V1 NO_contact 
.MODEL NO_contact csw (IT=0.05 IH=0.025 RON={Ron} ROFF={Roff})
.MODEL NC_contact csw (IT=0.05 IH=0.025 RON={Roff} ROFF={Ron})
.ENDS

*## Multisim Component S3 ##*
* !!!BEGIN-INTERACT
*  2.0 constant high
*  0.0 constant low
*  2   constant max_states
*  low VARIABLE volt
*
*  :MAP_KEYBOARD_INPUT ++++K1 1 ++++k1 -1 ;
*
*  : UPDATE_SETTINGS
*     *animation_state max_states  low  high  STATE  volt 
*     GRADUAL_CHANGE_AT_RUN  
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state *animation_state max_states NEXT_STATE_WRAP
*                                             ==>_*animation_state
*     UPDATE_SETTINGS
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*     value  SET_INSTANCE Vsource ::V  V2 dc
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*  : INIT_IMOUSE_OPTION
*    1 0 4 IMOUSE_SET
*  ;
*
*  : GET_IMOUSE_SUBCOMPS ( -- [iIdxN ... iIdx1] )
*    1
*  ;
*
*  : ON_SUBCOMP_IMOUSE_EVENT locals| eEventType nOptions iSubCompIdx |
*    eEventType 2 = if
*      -1
*      -1 KEYBOARD_INPUT
*    else
*      0
*    endif
*  ;
*
*  ( Initialize the settings )
*   UPDATE_SETTINGS
*   INIT_IMOUSE_OPTION
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ; 
*
* !!!END-INTERACT

xS3 VCC 4 0  SwitchS3 Params: Ron=0.0001 Roff=100000000

.subckt SwitchS3 1 2 3 Params: Ron=1e-8 Roff=1e30
V2 5 0 DC 0
R1 5 6 20
V1 6 0 DC 0
W0 2 1 V1 NC_contact 
W1 2 3 V1 NO_contact 
.MODEL NO_contact csw (IT=0.05 IH=0.025 RON={Ron} ROFF={Roff})
.MODEL NC_contact csw (IT=0.05 IH=0.025 RON={Roff} ROFF={Ron})
.ENDS

*## Multisim Component S2 ##*
* !!!BEGIN-INTERACT
*  2.0 constant high
*  0.0 constant low
*  2   constant max_states
*  low VARIABLE volt
*
*  :MAP_KEYBOARD_INPUT ++++K1 1 ++++k1 -1 ;
*
*  : UPDATE_SETTINGS
*     *animation_state max_states  low  high  STATE  volt 
*     GRADUAL_CHANGE_AT_RUN  
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state *animation_state max_states NEXT_STATE_WRAP
*                                             ==>_*animation_state
*     UPDATE_SETTINGS
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*     value  SET_INSTANCE Vsource ::V  V2 dc
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*  : INIT_IMOUSE_OPTION
*    1 0 4 IMOUSE_SET
*  ;
*
*  : GET_IMOUSE_SUBCOMPS ( -- [iIdxN ... iIdx1] )
*    1
*  ;
*
*  : ON_SUBCOMP_IMOUSE_EVENT locals| eEventType nOptions iSubCompIdx |
*    eEventType 2 = if
*      -1
*      -1 KEYBOARD_INPUT
*    else
*      0
*    endif
*  ;
*
*  ( Initialize the settings )
*   UPDATE_SETTINGS
*   INIT_IMOUSE_OPTION
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ; 
*
* !!!END-INTERACT

xS2 VCC 7 0  SwitchS2 Params: Ron=0.0001 Roff=100000000

.subckt SwitchS2 1 2 3 Params: Ron=1e-8 Roff=1e30
V2 5 0 DC 0
R1 5 6 20
V1 6 0 DC 0
W0 2 1 V1 NC_contact 
W1 2 3 V1 NO_contact 
.MODEL NO_contact csw (IT=0.05 IH=0.025 RON={Ron} ROFF={Roff})
.MODEL NC_contact csw (IT=0.05 IH=0.025 RON={Roff} ROFF={Ron})
.ENDS

*## Multisim Component S1 ##*
* !!!BEGIN-INTERACT
*  2.0 constant high
*  0.0 constant low
*  2   constant max_states
*  low VARIABLE volt
*
*  :MAP_KEYBOARD_INPUT ++++K1 1 ++++k1 -1 ;
*
*  : UPDATE_SETTINGS
*     *animation_state max_states  low  high  STATE  volt 
*     GRADUAL_CHANGE_AT_RUN  
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state *animation_state max_states NEXT_STATE_WRAP
*                                             ==>_*animation_state
*     UPDATE_SETTINGS
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*     value  SET_INSTANCE Vsource ::V  V2 dc
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*  : INIT_IMOUSE_OPTION
*    1 0 4 IMOUSE_SET
*  ;
*
*  : GET_IMOUSE_SUBCOMPS ( -- [iIdxN ... iIdx1] )
*    1
*  ;
*
*  : ON_SUBCOMP_IMOUSE_EVENT locals| eEventType nOptions iSubCompIdx |
*    eEventType 2 = if
*      -1
*      -1 KEYBOARD_INPUT
*    else
*      0
*    endif
*  ;
*
*  ( Initialize the settings )
*   UPDATE_SETTINGS
*   INIT_IMOUSE_OPTION
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ; 
*
* !!!END-INTERACT

xS1 VCC 6 0  SwitchS1 Params: Ron=0.0001 Roff=100000000

.subckt SwitchS1 1 2 3 Params: Ron=1e-8 Roff=1e30
V2 5 0 DC 0
R1 5 6 20
V1 6 0 DC 0
W0 2 1 V1 NC_contact 
W1 2 3 V1 NO_contact 
.MODEL NO_contact csw (IT=0.05 IH=0.025 RON={Ron} ROFF={Roff})
.MODEL NC_contact csw (IT=0.05 IH=0.025 RON={Roff} ROFF={Ron})
.ENDS

*## Multisim Component U1 ##*
xU1 9 1 8 VEE VCC 741__OPAMP__1


.SUBCKT 741__OPAMP__1 1 2 3 4 5
* EWB Version 4 - 5 Terminal Opamp Model
* nodes: 3=+ 2=- 1=out 5=V+ 4=V-
* VCC= 15 VEE= -15 CC= 3e-011 A= 200000 RI= 2e+006
* RO= 75 VOS= 0.001 IOS= 2e-008 IBS= 8e-008
* VSW+= 14 VSW-= -14 CMMR= 90
* ISC= 0.025 SR= 0.5 Fu= 1e+006 Pm= 6.09112e-007
    VC 5 15 DC 1.68573V 
    VE 12 4 DC 1.68573V 
    IEE 10 4 DC 1.516e-005A
    R1  10  0 10Gohm 
    R6  11  0 100Kohm
    R7   5  4 1Kohm   
    Rc1  6  5 5305.16ohm  
    Rc2  5  7 5305.16ohm  
    Re1  9 10 1839.19ohm 
    Re2  8 10 1839.19ohm 
    Ro1  1 14 37.5ohm 
    Ro2 14  0 37.5ohm 
    Ree 10  0 1.31926e+007ohm 
    Rcc  0 13 2.20906e-005ohm 
    Cee  0 10 1e-012    
    Cc  14 11 3e-011    
    C1   6  7 1e-016    
    GA  11  0  6  7 0.000188496 
    GC   0 13  1  0 45268.1 
    GB  14  0 11  0 282.942 
    GCM  0 11 10  0 5.96075e-009 
    D1  14 13 Dopamp1 
    D2  13 14 Dopamp1 
    D3   1 15 Dopamp2 
    D4  12  1 Dopamp2 
    Qt1  6 2 9 Qopamp1 
    Qt2  7 3 8 Qopamp2 
.MODEL Dopamp1 D (Is=7.53769e-014A Rs=0 Cjo=0F Vj=750mV Tt=0s M=0)
.MODEL Dopamp2 D (Is=8e-016A Rs=0 Cjo=0F Vj=750mV Tt=0s M=0)
.MODEL Qopamp1 NPN (Is=8e-016A BF=83.3333 BR=960m
+       Rb=0ohm Re=0ohm Rc=0ohm Cjs=0F Cje=0F Cjc=0F
+       Vje=750m Vjc=750m Tf=0 Tr=0 mje=0 mjc=0 VA=50)
.MODEL Qopamp2 NPN (Is=8.30948e-016A BF=107.143 BR=960m
+       Rb=0ohm Re=0ohm Rc=0ohm Cjs=0F Cje=0F Cjc=0F
+       Vje=750m Vjc=750m Tf=0 Tr=0 mje=0 mjc=0 VA=50)
.ENDS


